US08497278B2
1-((2-(4-chlorophenyl)-6-fluoroimidazo[1,2-a]pyridin-3-yl)methyl)pyridin-2(1H)-one (122)
The title compound was prepared according to Method B and the experimentals described for compound 91 from 3-(chloromethyl)-2-(4-chlorophenyl)-6-fluoroimidazo[1,2-a]pyridine hydrochloride and pyridin-2-ol. 1H-NMR (CDCl3, 400 MHz, δ) 8.45 (dd, J=2.4, 4.0 Hz, 1H), 7.65 (d, J=8.4 Hz, 2H), 7.58 (dd, J=5.1, 9.8 Hz, 1H), 7.46 (d, J=8.4 Hz, 1H), 7.24 (m, 1H), 7.16 (m, 1H), 6.76 (dd, J=1.9, 6.9 Hz, 1H), 6.59 (d, J=9.1 Hz, 1H), 6.00 (m, 1H), 5.62 (s, 2H) ppm; me/354 (M+H)+

reactant | 3-(chloromethyl)-2-(4-chlorophenyl)-6-fluoroimidazo[1,2-a]pyridine hydrochloride | Cl.ClCC1=C(N=C2N1C=C(C=C2)F)C2=CC=C(C=C2)Cl
reactant | pyridin-2-ol | N1=C(C=CC=C1)O | C5H5NO
product | 1-((2-(4-chlorophenyl)-6-fluoroimidazo[1,2-a]pyridin-3-yl)methyl)pyridin-2(1H)-one | ClC1=CC=C(C=C1)C=1N=C2N(C=C(C=C2)F)C1CN1C(C=CC=C1)=O | C19H13ClFN3O
